US07888354B2
Preparation of N-(2-hydroxyethyl)-1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxamide
A mixture of 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid hydrochloride prepared in Example 2-(1) (1.00 g), 2-aminoethanol (0.400 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.580 g), 1-hydroxybenzotriazole monohydrate (0.460 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluting solvent: chloroform:methanol=18:1) to give the titled compound (0.920 g) as a colorless solid.

reactant | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid hydrochloride | Cl.C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)O
reactant | 2-aminoethanol | 0.400 g | NCCO | C2H7NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.580 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.460 g | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(2-hydroxyethyl)-1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxamide | 0.920 g | OCCNC(=O)C=1C=NN(C1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C | C20H28N4O3
